US04176184
7,7-Dimethyl-2-(4-chloro-phenyl)-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride
Prepared analogous to Example 23 from 3.8 gm of 7,7-dimethyl-2-(4-chloro-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione and 3.1 gm of 3-diethylamino-propyl bromide hydrobromide.

reactant | 7,7-dimethyl-2-(4-chloro-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 3.8 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | C18H14ClN3O2
reactant | 3-diethylamino-propyl bromide hydrobromide | 3.1 gm | Br.C(C)N(CCCBr)CC
product | 7,7-Dimethyl-2-(4-chloro-phenyl)-5-(3-diethylamino-propyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione dihydrochloride | Cl.Cl.CC1(N=CC2=C3C(C(C(C2C1=O)CCCN(CC)CC)=O)=NC(=N3)C3=CC=C(C=C3)Cl)C | InChI=1S/C25H29ClN4O2.2ClH/c1-5-30(6-2)13-7-8-17-19-18(14-27-25(3,4)23(19)32)20-21(22(17)31)29-24(28-20)15-9-11-16(26)12-10-15;;/h9-12,14,17,19H,5-8,13H2,1-4H3;2*1H
